US03997535
b. 3-Chloro-6,7-dimethyl-2-quinoxalinecarboxylic acid
3Chloro-6,7-dimethyl-2-quinoxalinecarboxylic acid, ethyl ester (14.5 g) and sodium carbonate (3.2 g) in methanol (300 ml) and water (75 ml) were heated under reflux for 2 hours. The methanol was distilled off and the aqueous solution was acidified with dilute hydrochloric acid. The solid was collected, dried and crystallised from a mixture of ethyl acetate and light petroleum (b.p. 60°-80°). It had m.p. 146.5°-148.5° (d) (75%).

reactant | 3Chloro-6,7-dimethyl-2-quinoxalinecarboxylic acid, ethyl ester | 14.5 g | ClC=1C(=NC2=CC(=C(C=C2N1)C)C)C(=O)OCC | C13H13ClN2O2
reactant | sodium carbonate | 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 75 ml | O | H2O
product | 3-Chloro-6,7-dimethyl-2-quinoxalinecarboxylic acid | ClC=1C(=NC2=CC(=C(C=C2N1)C)C)C(=O)O | C11H9ClN2O2
